V3 source-disturbance bench P3-84fe3862bf VTH=-0.5 beta=0.1
* Uncalibrated behavioral proxy; source voltage is prescribed, not an OLED model.
.option reltol=1e-6 abstol=1e-16 vntol=1e-9 method=gear
VVDD VDD 0 8
VREF VREF 0 3
VINIT VINIT 0 0
VDATA VDATA 0 1.5
VOA OLED_A 0 PWL(0 1 138.81u 1 138.83u 1.5 16808.8u 1.5)
.param vt=-0.5 beta=0.1u
BDRT VDD S I={beta*(max(V(G,S)-vt,0)*min(max(V(VDD,S),0),max(V(G,S)-vt,0))-0.5*min(max(V(VDD,S),0),max(V(G,S)-vt,0))^2)}
CST G S 320f
CDATA G X 20f
CPG G 0 3f
CPS S 0 20f
CPX X 0 2f
SGREF G VREF GC 0 MOD_GREF
.model MOD_GREF SW(Ron=150000.0 Roff=50000000000000.0 Vt=2 Vh=0)
SXANCHOR X S XC 0 MOD_XANCHOR
.model MOD_XANCHOR SW(Ron=150000.0 Roff=50000000000000.0 Vt=2 Vh=0)
SDATA X VDATA DC 0 MOD_DATA
.model MOD_DATA SW(Ron=150000.0 Roff=50000000000000.0 Vt=2 Vh=0)
SSCLAMP S VINIT SC 0 MOD_SCLAMP
.model MOD_SCLAMP SW(Ron=150000.0 Roff=50000000000000.0 Vt=2 Vh=0)
SEM S OLED_A EC 0 MOD_EM
.model MOD_EM SW(Ron=30000.0 Roff=500000000000.0 Vt=2 Vh=0)
VGC GC 0 PWL(0u 4 128.5u 4 128.502u 0 16808.81u 0)
VXC XC 0 PWL(0u 4 128.5u 4 128.502u 0 16808.81u 0)
VSC SC 0 PWL(0u 4 0.495u 4 0.497u 0 128.52u 0 128.522u 4 128.805u 4 128.807u 0 16808.81u 0)
VDC DC 0 PWL(0u 0 128.74u 0 128.742u 4 128.79u 4 128.792u 0 16808.81u 0)
VEC EC 0 PWL(0u 0 128.81u 0 128.812u 4 16808.805u 4 16808.807u 0 16808.81u 0)
BVGS VGS 0 V=V(G)-V(S)
BU U 0 V=V(G)-V(S)-vt
.tran .1u 16808.8u 0 .2u
.meas tran vgs_comp FIND V(VGS) AT=128.49u
.meas tran vgs_write FIND V(VGS) AT=128.787u
.meas tran vgs_early FIND V(VGS) AT=133.81u
.meas tran vgs_before FIND V(VGS) AT=137.81u
.meas tran vgs_after FIND V(VGS) AT=139.81u
.meas tran source_before FIND V(S) AT=137.81u
.meas tran source_after FIND V(S) AT=139.81u
.meas tran vgs_end FIND V(VGS) AT=16788.8u
.meas tran overdrive FIND V(U) AT=133.81u
.end
